US04937268
[3-[2-(3-Bromopropoxy)ethoxy]propyl]benzene
Triphenylphosphine (12.59 g), in dry dichloromethane was added dropwise over 20 min to a stirred solution of 3-[2-(3-phenylpropoxy)ethoxy]-1-propanol (8.8 g) and carbon tetrabromide (15.92 g) in dry dichloromethane (170 ml) at 0° C. under nitrogen. The solution was allowed to warm to room temperature and stirred under nitrogen for 30 min. The solution was concentrated to ca 30 ml and then purified by FCC eluting with System B (0:10→2:3) to give the title compound (9.94 g) as an oil. T.l.c. (System B 1:1) Rf 0.50

reactant | Triphenylphosphine | 12.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-[2-(3-phenylpropoxy)ethoxy]-1-propanol | 8.8 g | C1(=CC=CC=C1)CCCOCCOCCCO | C14H22O3
reactant | carbon tetrabromide | 15.92 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | [3-[2-(3-Bromopropoxy)ethoxy]propyl]benzene | 9.94 g | BrCCCOCCOCCCC1=CC=CC=C1 | C14H21BrO2
